US05550125
1.1. N-(2-Hydroxyphenyl)trifluoroacetamide.
A suspension of 1.5 l of diethyl ether and 104 g (0.95 mol) of 2-aminophenol is prepared in a 4 l reactor, with magnetic stirring, and 77 ml of pyridine are added. The reaction medium is cooled with a mixture of ice and ethanol, 200 g (0.95 mol) of trifluoroacetic anhydride are added dropwise over 1 h, the mixture is allowed to return to room temperature and stirring is continued for 1 h.

reactant | diethyl ether | 1.5 l | C(C)OCC | C4H10O
reactant | 2-aminophenol | 0.95 mol, 104 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | pyridine | 77 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.95 mol, 200 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethanol | C(C)O | C2H6O
product | N-(2-Hydroxyphenyl)trifluoroacetamide | OC1=C(C=CC=C1)NC(C(F)(F)F)=O | C8H6F3NO2
